US07795436B2
To a solution of cis-8-methyl-6-phenyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene (22 mg, 0.084) in CH2Cl2 was added Et3N (43 mg, 0.42 mmol) followed by ethyl chloroformate (18 mg, 0.17 mmol). The reaction mixture was stirred at 20° C. for 2 h and concentrated in vacuo. The residue was chromatographed in silica gel column (Hex/EtOAc 9/1) to give cis-8-methyl-6-phenyl-1,2,4,4a,9,9a-hexahydro-3-aza-fluorene-3-carboxylic acid ethyl ester (20 mg, 0.060 mmol).

reactant | cis-8-methyl-6-phenyl-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene | 22 mg | CC=1C=C(C=C2[C@H]3CNCC[C@H]3CC12)C1=CC=CC=C1 | C19H21N
reactant | Et3N | 0.42 mmol, 43 mg | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.17 mmol, 18 mg | ClC(=O)OCC | C3H5ClO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | cis-8-methyl-6-phenyl-1,2,4,4a,9,9a-hexahydro-3-aza-fluorene-3-carboxylic acid ethyl ester | 0.060 mmol, 20 mg | C(C)OC(=O)N1CC[C@H]2CC3=C(C=C(C=C3[C@H]2C1)C1=CC=CC=C1)C | C22H25NO2
